US07618990B2
Serine methyl ester hydrochloride (1.02 g, 4 mmol) was dissolved in 50 mL of ethanol and 2-(4-bromophenyl)-2-oxoethyl thiocyanate (0.686 g, 4.4 mmol), prepared in step 1 of Example 1, was added followed by triethylamine (0.63 mL, 4.4 mmol). The mixture was heated to 60° C. for 18 h and then cooled and concentrated under reduced pressure. Flash chromatography (1% methanol/chloroform) afforded 1.1 g of 2-[4-(4-bromophenyl)-1,3-thiazol-2-ylamino]-3-hydroxy-propionic acid methyl ester (1.1 g, 79%) as a white solid.

reactant | Serine methyl ester hydrochloride | 4 mmol, 1.02 g | Cl.COC([C@@H](N)CO)=O
reactant | 2-(4-bromophenyl)-2-oxoethyl thiocyanate | 4.4 mmol, 0.686 g | BrC1=CC=C(C=C1)C(CSC#N)=O | C9H6BrNOS
reactant | triethylamine | 4.4 mmol, 0.63 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-[4-(4-bromophenyl)-1,3-thiazol-2-ylamino]-3-hydroxy-propionic acid methyl ester | 1.1 g, 79% | COC(C(CO)NC=1SC=C(N1)C1=CC=C(C=C1)Br)=O | C13H13BrN2O3S
